US03968102
100 g of 2',3',5'-triacetyl-6-chloroguanosine was dissolved in 400 ml of concentrated hydrochloric acid and, after the mixture was cooled to 0°C, a solution of 20 g of sodium nitrite dissolved in 50 ml of water was then added slowly to the mixture. The resulting mixture was allowed to react for 30 minutes, neutralized with concentrated aqueous ammonia and extracted with 2 l of methylene chloride. The extract was dried over anhydrous sodium sulfate and concentrated. The concentrate thus-obtained was dissolved in 300 ml of saturated methanolic ammonia and the mixture was allowed to react at a temperature of 100°C for 5 hours in a sealed tube. The reaction mixture was then concentrated to dryness and the residue was crystallized from water to obtain 42.3 g (60% yield) of 2-chloroadenosine. Recrystallization from water was repeated to obtain crystals having the following constant physical properties. Melting Point: 161° ~ 162°C (with decomposition)

reactant | 2',3',5'-triacetyl-6-chloroguanosine | 100 g | C(C)(=O)[C@@]1([C@@H](O[C@@H]([C@]1(O)C(C)=O)C(O)C(C)=O)N1C=NC=2C(O)(NC(N)=NC12)Cl)O | C16H20ClN5O8
reactant | sodium nitrite | 20 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 400 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ammonia | 300 ml | N | H3N
product | 2-chloroadenosine | 42.3 g, 60% yield | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12ClN5O4
